US06927042B2
Preparation of p-acetyl-L-phenylalanine:
Fmoc-p-acetyl-L-phenylalanine was purchased from RSP Amino Acid Analogues, Inc. (Worcester, Mass.). This compound (1.0 g, 2.3 mmol) was stirred with 4 mL of piperidine (20% in dimethyl formamide (DMF)) for 2 hours at room temperature. The solvent was evaporated to obtain white powder. The solid was then resuspended in 10 mL of cold water (0.1% trifluoroacetic acid (TFA)), and the supernatant was collected by filtration. Preparative reverse-phase HPLC (Microsorb C18, Rainin Instrument Co., Inc., Woburn, Mass.) was used to separate the desired product from the reaction mixture (5-30% CH3CN in H2O with 0.1% TFA over 30 min). The eluant (tR=12 min) was lyophilized to obtain a white solid (0.45 g, 88%). 1H NMR (400 MHz D2O): δ 7.85-7.28 (m, 4H), 4.23 (dd, 1H, 5.4 Hz), 3.2 (m, 2H), 2.7 (s, 3H). MS electrospray ionization (ESI): [M+1]+ calcd for C11H13NO3 208.09, found 208.47.

reactant | Fmoc-p-acetyl-L-phenylalanine | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC=C(C=C1)C(C)=O)C(=O)O | C26H23NO5
reactant | piperidine | 4 mL | N1CCCCC1 | C5H11N
solvent | water | 10 mL | O | H2O
product | p-acetyl-L-phenylalanine | 0.45 g, 88% | C(C)(=O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C11H13NO3
